US04442115
A mixture of 4-bromo-2-methoxy-6-nitrophenol (7.0 g), anhydrous potassium carbonate (2.12 g) and benzyl chloride (3.93 g) in dry sulpholane (70 ml) was stirred at 90°-95° C. for 24 hours. The mixture was then diluted with water (300 ml) and the resulting oil was extracted with diethyl ether (3×50 ml). The combined ethereal extracts were washed with aqueous sodium carbonate solution (2 N; 2×50 ml) and then with water (3×20 ml), dried over anhydrous sodium sulphate and evaporated in vacuo to give a solid, which was recrystallised from ethanol to give 2-benzyloxy-5-bromo-3-methoxynitrobenzene (7.7 g), m.p. 74°-76° C.

reactant | 4-bromo-2-methoxy-6-nitrophenol | 7.0 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])O)OC | C7H6BrNO4
reactant | potassium carbonate | 2.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 3.93 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | sulpholane | 70 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 300 ml | O | H2O
product | 2-benzyloxy-5-bromo-3-methoxynitrobenzene | 7.7 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)Br)[N+](=O)[O-] | C14H12BrNO4
